US06921767B2
Step 1: 2,3-Difluoroanisole.
2,3-Difluorophenol (4.55 g) was dissolved in DMF (25 mL) and was treated with powdered K2CO3 (6.0 grams) and the mixture was stirred at an ambient temperature for 10 minutes under nitrogen atmosphere. The mixture was treated with iodomethane (9.0 grams), and was stirred at room temperature for 18 hours. The reaction mixture was quenched with water and was extracted with ether. The ether extract was washed with water, dried (Na2SO4) and concentrated to afford 3.8 grams of title compound as amber oil. 1HNMR(CDCl3): δ 6.97(m, 1H), 6.78(m, 2H), 3.90(s, 3H). Step 2: 2,3-Difluoro-4-methoxybenzaldehyde.

reactant | 2,3-Difluorophenol | 4.55 g | FC1=C(C=CC=C1F)O | C6H4F2O
reactant | K2CO3 | 6.0 grams | C(=O)([O-])[O-].[K+].[K+]
reactant | iodomethane | 9.0 grams | IC | CH3I
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
product | 2,3-Difluoroanisole | 3.8 grams | FC1=C(C=CC=C1F)OC | C7H6F2O
